US05624935
2-Hydroxymethyl-3-methyl-5-phenyl-3H-imidazo[4,5-b]-pyridine
A procedure similar to that described in Preparation 43 was repeated, except that 4.9 g of 3-amino-2-methylamino-6-phenylpyridine (prepared as described in Preparation 109) and 5.6 g of glycolic acid were used, and that the product was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of ethyl acetate and ethanol in ratios ranging from 1:0 to 10:1 by volume as the eluent, to give 0.9 g of the title compound, melting at 174°-177° C.

reactant | 3-amino-2-methylamino-6-phenylpyridine | 4.9 g | NC=1C(=NC(=CC1)C1=CC=CC=C1)NC | C12H13N3
reactant | glycolic acid | 5.6 g | C(CO)(=O)O | C2H4O3
product | 2-Hydroxymethyl-3-methyl-5-phenyl-3H-imidazo[4,5-b]-pyridine | 0.9 g | OCC1=NC=2C(=NC(=CC2)C2=CC=CC=C2)N1C | C14H13N3O
